US06582351B1
A mixture of 3-amino-5-cyano-2-(trans-4-hydroxycyclohexylamino)pyridine (3.1 g) and 1,1′-carbonyldiimidazole (6.49 g) in acetonitrile (31 mL) was stirred at 50° C. under nitrogen atmosphere for 15 minutes. After adding 1N-NaOH(35 mL), the mixture was stirred at 60° C. for 1.5 hours. The reaction mixture was neutralized with concentrated hydrochloric acid to yield a precipitate. The resulting precipitate was collected by filtration and washed successively with water and aqueous ethanol to give 6-cyano-3-(trans-4-hydroxycyclohexyl)-2,3-dihydro-1H-imidazo[4,5-b]pyridin-2-one (1.93 g) as a brown solid.

reactant | 3-amino-5-cyano-2-(trans-4-hydroxycyclohexylamino)pyridine | 3.1 g | NC=1C(=NC=C(C1)C#N)N[C@@H]1CC[C@H](CC1)O | C12H16N4O
reactant | 1,1′-carbonyldiimidazole | 6.49 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | NaOH | 35 mL | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | acetonitrile | 31 mL | C(C)#N | C2H3N
product | 6-cyano-3-(trans-4-hydroxycyclohexyl)-2,3-dihydro-1H-imidazo[4,5-b]pyridin-2-one | 1.93 g | C(#N)C=1C=C2C(=NC1)N(C(N2)=O)[C@@H]2CC[C@H](CC2)O | C13H14N4O2
